Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1](/[C:2]([C:3]([O:4][H:14])([H:12])[H:13])=[N:5]/[C:6](=[O:7])[H:16])([H:8])([H:9])[H:10].[H:11][H:15]>>[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10],64.40431860302809
[C:1](=[C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:10])[H:13])[H:12])[H:11])([H:8])[H:9]>>[C:1]([C@@:2]1([H:11])[O:3][C:4](=[O:5])[C:6]([H:12])=[C:7]1[H:13])([H:8])([H:9])[H:10],52.60949574672888
[C:1]([N:2]([C:3](=[O:4])[C:5]#[C:6][H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C-:3]=[O+:4][C:5]#[C:6][H:11])[H:10])([H:7])([H:8])[H:9],84.21064630961
[N:1]#[C:2][c:3]1[c:4]([H:8])[n:5]([H:9])[n:6][n:7]1>>[N+:1](#[C-:2])[N+:7]1=[C:3]=[C:4]([H:8])[N:5]([H:9])[N-:6]1,119.16646996971201
[O:1]=[C:5]([C:4]1=[C:2]([C:6]#[N:7])[C:3]1([H:8])[H:9])[H:10]>>[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7],72.06956983037354
[O:1](/[C:2](=[C:3](/[C:4]([O:5][C:6](=[O:7])[H:13])([H:10])[H:12])[H:11])[H:9])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8],82.9142790139942
[O:1]([C:2]([C:3]([O:4][C:7](=[C:6]=[C:5]([H:13])[H:14])[H:15])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]([O:4][C:5]([C:6]#[C:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8],66.95965680353555
[C:1]([C:2]([C:4]#[C:5][H:12])=[C:6]=[N:7][O:3][H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:11])([C:4]#[C:5][H:12])[C:6]#[N:7])([H:8])([H:9])[H:10],35.11954690782201
[C:1]1([H:8])([H:9])[C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5]1=[C:6]([H:7])[H:16]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5]#[C:6][H:16])([H:7])([H:8])[H:9],82.20991648745695
[C-:5]#[O+:6].[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[O:4])([H:7])([H:8])[H:9].[H:10][H:14]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([O:4][C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9],37.0733217035536
[O:1]([C:2]([C:3]([O:4][H:11])([C:5]([O:6][H:14])([H:12])[H:13])[H:10])([H:8])[H:9])[H:7]>>[C:2]1([H:8])([H:9])[C:3]([O:4][H:14])([H:10])[C:5]([H:12])([H:13])[O:6]1.[O:1]([H:7])[H:11],73.5021991728708
[N:1]([C@@:2]([C:3]([O:4][H:12])([H:10])[H:11])([C:5]#[N:6])[H:9])([H:7])[H:8]>>[N:1]([N:6]=[C:5]=[C:2]([C:3]([O:4][H:12])([H:10])[H:11])[H:9])([H:7])[H:8],80.5476666793215
[O:1]([C:2]#[N+:3]/[C:4](=[N:5]\[N:6][H:9])[H:8])[H:7]>>[O:1]([c+:2]1[n-:3][c:4]([H:8])[n:5][n:6]1[H:9])[H:7],9.384266869606094
[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[O-:1][C:6]([C:5]([C:4]([N:3]([C:2][H:8])[H:9])([H:10])[H:11])([H:12])[H:13])=[C+:7][H:14],102.342399995025
[C:1]([N:2]([C:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:10])[N:2]([H:11])[C:3]([H:12])([H:13])[C:4]1([O:5][H:9])[O:6][C:7]([H:14])([H:15])[H:16],84.48205363917991
[C-:4]#[C:5][C+:6]=[N:7][H:8].[N:1](=[C:2]=[O:3])[H:9]>>[N:1]([C:2](=[O:3])[C:4]#[C:5][C:6]#[N:7])([H:8])[H:9],24.112554257226293
[H:8][H:11].[N:1](=[C:2]1\[O:3][C@@:4]1([O:5][C:6](=[O:7])[H:12])[H:10])\[H:9]>>[N:1]([C:2](=[O:3])[C:4]([O:5][C:6](=[O:7])[H:12])([H:10])[H:11])([H:8])[H:9],27.460349803922703
[O:1]=[C:2]([N+:3]([C-:4]([C:5]#[C:6][H:11])[H:9])([H:8])[H:10])[H:7]>>[O:1]=[C:2]([N:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7],20.33548434609269
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5](=[O:6])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9].[H:12][H:13],85.6375760159867
[O:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:3](=[N:4][H:12])([H:10])[H:11].[C:5](=[O:6])([H:7])[H:13].[O:1]=[C:2]([H:8])[H:9],68.0718956563409
[N:1]([C:2]([C@@:3]([O:4][H:12])([C:5]#[N:6])[H:11])([H:9])[H:10])([H:7])[H:8]>>[C:2](=[C:3]([O:4][H:12])[C:5]#[N:6])([H:9])[H:10].[N:1]([H:7])([H:8])[H:11],53.544716169379704
[C:1]([C@@:2]1([C:5]#[N:6])[C:3]([H:10])([H:11])[O:4]1)([H:7])([H:8])[H:9]>>[C:1]([C:2]1=[O+:4][C:3]([H:10])([H:11])[C:5]1=[N-:6])([H:7])([H:8])[H:9],55.363224509593714
[C:1](=[C:2]([C:3]([C@@:4]1([H:11])[N:5]=[C:6]1[H:13])([H:10])[H:12])[H:9])([H:7])[H:8]>>[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13],49.66701542269311
[O:1]([C:2]([C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C@:6]1([H:15])[O:7]2)([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]1([H:11])[C-:4]=[O+:7][C@:6]1([C:5]([H:12])([H:13])[H:14])[H:15])([H:9])[H:10])[H:8],55.0879225537865
[C:1]([C@:4]([C:2](=[O:3])[H:10])([C:5]#[N:6])[H:12])([H:7])([H:8])[H:9].[H:11][H:13]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[N:6])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],70.4439205873777
[C:1]([C:2](=[C:4]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[O:3]([C:5](=[O:6])[H:14])[H:11]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],49.28400843477957
[C:1]([O:2][C:3]([C:4]#[N:5])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([N+:5]#[C-:4])([H:6])([H:7])[H:8].[O:2]=[C:3]([H:9])[H:10],86.19870378021723
